US05061705
6-Aminoacetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene hydrochloride:
16.2 g (63.5 millimoles) of 6-aminoacetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene in 250 ml of methanol and 59 ml of 2N hydrochloric acid were hydrogenated with 2.9 g of 10% strength palladium on active carbon at room temperature and under atmospheric pressure. The reaction mixture was filtered over Celite and the filtrate was evaporated down. The residue was stirrred with ether and a few drops of methanol and the precipitated crystals were filtered off under suction. After drying, 5.8 g of 6-aminoacetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene hydrochloride remained. The structure was determined by H-NMR spectroscopy.

reactant | 6-aminoacetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | 63.5 millimoles, 16.2 g | NCC(=O)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C16H23NO
reactant | hydrochloric acid | 2N, 59 ml | Cl | ClH
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 6-Aminoacetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene hydrochloride | Cl.NCC(=O)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | InChI=1S/C16H23NO.ClH/c1-15(2)7-8-16(3,4)13-9-11(14(18)10-17)5-6-12(13)15;/h5-6,9H,7-8,10,17H2,1-4H3;1H
